Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Weakness, dizziness, speech difficulties
 
Major Surgical or Invasive Procedure:
N/A
 
History of Present Illness:
___ with h/o smoking and HTN, who presented to OSH around noon
___ with vague feelings of dizziness, headache, and difficulty
picking up objects (wife was unclear which hand). In ED, he was
found to have right sided weakness. Per wife, he later developed
speech difficulties in ED described as difficulty getting words
out, sounding like "pig latin," paraphasic errors (called keys
"presents"), and was getting frustrated; his speech seemed to
improve by 7pm before transfer. Head CT ruled out bleed and he
was offered tPA but family declined. Brain MRI at OSH revealed a
small fronto-parietal infarct and he was transferred here for
further care. 

In the ED after my exam, family and resident were concerned he
developed worsening aphasia, dysarthria, and tongue deviation.
These findings were all consistent with my recent exam. A repeat
head CT was done.

Review of Systems: unable to obtain given aphasia
 
 
Past Medical History:
- GERD
- HTN
- HLD
- shoulder surgery

 
Social History:
___
Family History:
- Denies neurologic disease in the family

 
Physical Exam:
Vitals:
97.7 58 158/64 14 94% RA 
General: Awake, cooperative, NAD.
HEENT: NC/AT
Neck: Supple. 
Pulmonary: clear to auscultation bilaterally
Cardiac: RRR, no murmurs
Abdomen: soft, nondistended
Extremities: no edema, warm
Skin: no rashes or lesions noted.
 
Neurologic:
-Mental Status: Alert. Speech non-fluent. Profound anomia - can
name pen but no objects on stroke card. Difficulty with commands
of the exam including both midline and appendicular commands.
Repeats "it's a sunny day in ___ with one paraphasic error
(funny for ___). Can add 2+2 but not subtract ___. Cannot 
read.
Speech is dysarthric, particularly with lingual and gutteral
sounds.  

-Cranial Nerves:
I: Olfaction not tested.
II: PERRL 3 to 2mm bilaterally.  Does not reliably blink to
threat in any quadrant. 
III, IV, VI: EOMI without nystagmus.  
V: Facial sensation intact to light touch in all distributions 
VII: Activates right face less than left. 
VIII: Hearing intact to voice bilaterally.
IX, X: Palate elevates symmetrically.
XI: full strength in trapezii bilaterally.
XII: Tongue deviates right. 
 
-Motor: Normal bulk, tone throughout. Right pronator drift. No
tremor noted. Could not cooperate fully with formal testing. 
 Delt Bic Tri WrE FFl FE  IP Quad Ham TA ___ 
L  ___   ___  ___   >4  5      >4  
R  ___  ___  ___   5   5   >4  5      >4 
 
-DTRs: Trace throughout. Toes were downgoing bilaterally.

-Sensory: Cannot comply with formal testing. Withdraws right 
foot
to foot tickle more slowly than left foot. 

-Coordination: unable to cooperate 

-Gait: deferred given risk for fall w/new weakness and inability
to follow commands

LABS:
136  102  10     AGap=12 
---I----I----< 139
3.4  25  0.8  

9.0 > 14.2/39.3 < 177 
  
   
 N:63.4 L:27.4 M:7.0 E:1.6 Bas:0.5 

___: 10.7  PTT: 28.2  INR: 1.0  

IMAGING:
OSH MRI (my read): Appears to have ___ as well as a
small left frontal subcortical diffusion abnormalities. Also has
small vessel disease.

CTA ___ (my read): occluded left carotid

 
Pertinent Results:
CT/CTA, ___: 

1. Evolving acute to early subacute infarct of the left inferior 
parietal 
lobe, in the left middle cerebral artery territory.  No acute 
hemorrhage. 
2. Near complete occlusion of the left internal carotid artery 
from its origin 
through the cavernous segment, with string like flow in the 
proximal cervical 
segment and in the petrous segment, and with paraclinoid 
reconstitution. 
3. Left middle cerebral artery is widely patent.  There is a 
mild focal 
stenosis of the proximal A1 segment of the left anterior 
cerebral artery, but 
the remainder of the left anterior cerebral artery is patent. 
4. Approximately ___ % stenosis of the right proximal internal 
carotid 
artery by NASCET criteria. 
5. Occlusion of the small nondominant cervical vertebral artery 
from its 
origin until the level of C5-6, after which it is diminutive in 
caliber.  This 
could be secondary to either atherosclerosis or dissection, but 
the calcified 
plaque in the expected location of the right vertebral artery 
origin suggests 
atherosclerosis. 

ECHO, ___: The left atrium and right atrium are normal in 
cavity size. No atrial septal defect is seen by 2D or color 
Doppler. The estimated right atrial pressure is ___ mmHg. Left 
ventricular wall thickness, cavity size and regional/global 
systolic function are normal (LVEF >55%). Due to suboptimal 
technical quality, a focal wall motion abnormality cannot be 
fully excluded. Right ventricular chamber size and free wall 
motion are normal. The aortic valve leaflets (3) appear 
structurally normal with good leaflet excursion and no aortic 
stenosis or aortic regurgitation. The mitral valve appears 
structurally normal with trivial mitral regurgitation. There is 
no mitral valve prolapse. Trivial mitral regurgitation is seen. 
The pulmonary artery systolic pressure could not be determined. 
There is no pericardial effusion. 

IMPRESSION: Suboptimal image quality. Normal biventricular 
regional/global systolic function. No source of cardiac emboli 
identified on available images.  
 
Brief Hospital Course:
Mr. ___ was admitted to the Stroke Neurology service and 
monitored closely. A CTA showed complete occlusion of the L ICA 
and a 75-80% occlusion of the R ICA. He was started on a heparin 
drip to prevent further strokes with the occlusion in the 
setting of a slightly fluctuating exam. 

He was kept with the head of the bed flat for the first 24h of 
his admission here. His exam improved and by the second hospital 
day, he was able to say some ___ word phrases and sing songs. He 
still had trouble with naming and with commands. His speech 
continued to improve and by discharge he was naming most high 
and low frequency items, had mild deficts in comprehension and 
some fluctuating issues with orientation. He was quite fluent in 
his speech and was able to answer all questions. He continued to 
be quite perseverative during the admission. 

He transitioned converted to coumadin and once he achieved a 
therapeutic INR (goal ___, his heparin gtt was discontinued. 
His home antihypertensives and home statin were restarted prior 
to discharge. 

His workup showed: 
A1C: 5.8%
LDL: 46
HDL: 59
___: 95
Total cholesterol: 124

An echocardiogram showed no thrombus or wall motion abnormality. 
His blood pressure was monitored and his regimen was adjusted as 
indicated.

Mr. ___ was started on a nicotine patch during his admission. 
Smoking cessation was strongly encouraged. 
 
Medications on Admission:
- crestor 20mg daily
- HCTZ 25mg daily
- omeprazole
- quinapril 40mg daily
- amlodipine 10mg daily

 
Discharge Medications:
1. Rosuvastatin Calcium 20 mg PO QPM 
2. Omeprazole 20 mg PO DAILY 
3. Nicotine Patch 14 mg TD DAILY 
4. Quinapril 40 mg PO DAILY 
5. Amlodipine 10 mg PO DAILY 
6. Polyethylene Glycol 17 g PO DAILY 
7. Warfarin 5 mg PO DAILY16 
8. Hydrochlorothiazide 25 mg PO DAILY 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Ischemic Stroke (L MCA)
Left Carotid Occlusion
High grade right ICA stenosis
Hypertension

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to the hospital because of speech difficulties 
and dizziness you experienced on ___. We found a moderate-sized 
left sided stroke that explained your symptoms. It was felt the 
stroke was a result of an occlusion of your left internal 
carotid artery, which is likely due to your smoking habit, 
cholesterol intake and blood pressure. 

We kept you on a heparin drip while in the hospital to futher 
thin your blood to prevent further strokes. You were also 
started on a medication called coumadin to thin your blood. Your 
PCP should follow up blood levels regularly. 

It is imperative that you stop smoking on discharge. Continuing 
smoking could cause another devastating stroke. 

We wish you the best in your recovery. Please do not hesitate to 
contact us with any questions or concerns. 

Sincerely,
Your ___ Neurology Team
 
Followup Instructions:
___